US04396616
1-(1-Carbomethoxyethyl)-3-acetylthiomethylperhydroazocin-2-one
A solution of 50 mg of 1-(1-carbomethoxyethyl)-3-methyleneperhydroazocin-2-one in thioacetic acid (0.5 ml) is kept at room temperature for 18 hours. Toluene (5 ml) is added and the mixture is concentrated to dryness under reduced pressure. The product is purified by preparative tlc on silica gel (system 5% acetone in chloroform) to yield the title compound (62 mg) as a colorless oil.

reactant | 1-(1-carbomethoxyethyl)-3-methyleneperhydroazocin-2-one | 50 mg | C(=O)(OC)C(C)N1C(C(CCCCC1)=C)=O | C12H19NO3
reactant | Toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
reactant | thioacetic acid | 0.5 ml | C(C)(=S)O | C2H4OS
product | 1-(1-Carbomethoxyethyl)-3-acetylthiomethylperhydroazocin-2-one | 62 mg | C(=O)(OC)C(C)N1C(C(CCCCC1)CSC(C)=O)=O | C14H23NO4S
